US04801733
(E)-4-[2-(5,6,7,8-Tetrahydro-1-methoxy-3,5,5,8,8-pentamethylnaphth-2-yl)-1-ethenyl]-benzonitrile
A solution of 25.2 g (0.1 mole) of diethyl 4-cyanobenzylphosphonate in 50 ml of dimethyl sulfoxide was added dropwise to a suspension of 3 g (0.1 mole) of sodium hydride (80% strength, freed beforehand from the 20% of paraffin using petroleum ether) in 100 ml of absolute dimethyl sulfoxide at from 25° to 40° C. The mixture was stirred for a further hour, after which a solution of 12 g (50 millimoles) of 2-formyl-5,6,7,8-tetrahydro-1-methoxy-3,5,5,8,8-pentamethylnaphthalene in 100 ml of dimethyl sulfoxide was added dropwise, and the mixture was stirred overnight at room temperature. Thereafter, the reaction mixture was poured onto 1.2 l of water and acidified with 2N hydrochloric acid, the resulting oily product was separated off and stirred with a little methanol, the crystals obtained were filtered off and the solid was washed on the filter with methanol and dried to give 13.8 g of the title compound of melting point 120° C.

reactant | diethyl 4-cyanobenzylphosphonate | 0.1 mole, 25.2 g | C(#N)C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C12H16NO3P
reactant | sodium hydride | 0.1 mole, 3 g | [H-].[Na+]
reactant | 2-formyl-5,6,7,8-tetrahydro-1-methoxy-3,5,5,8,8-pentamethylnaphthalene | 50 millimoles, 12 g | C(=O)C1=C(C=2C(CCC(C2C=C1C)(C)C)(C)C)OC | C17H24O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 1.2 l | O | H2O
product | (E)-4-[2-(5,6,7,8-Tetrahydro-1-methoxy-3,5,5,8,8-pentamethylnaphth-2-yl)-1-ethenyl]-benzonitrile | 13.8 g | COC1=C(C(=CC=2C(CCC(C12)(C)C)(C)C)C)/C=C/C1=CC=C(C#N)C=C1 | C25H29NO
